US07977371B2
2-Aminocarbonylamino-5-(4-bromophenyl)-4-chloropyrrole-3-carboxamide (Compound No. 7-1)
N-Chlorosuccinimide (48 mg, 0.36 mmol) was added to a solution of 2-aminocarbonylamino-5-(4-bromophenyl)pyrrole-3-carboxamide (Compound No. 1-1, 97 mg, 0.30 mmol) in anhydrous N,N-dimethylformamide (2 mL), and the mixture was stirred overnight at 50° C. After cooling, water (4 mL) was added thereto, the precipitated solid was filtered off, and washed with water (5 mL). The obtained solid was dried under reduced pressure to give the target compound (54 mg) as a pale brown solid (Yield 51%).

reactant | N-Chlorosuccinimide | 0.36 mmol, 48 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-aminocarbonylamino-5-(4-bromophenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)Br | C12H11BrN4O2
reactant | water | 4 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Aminocarbonylamino-5-(4-bromophenyl)-4-chloropyrrole-3-carboxamide | 54 mg, Yield 51% | NC(=O)NC=1NC(=C(C1C(=O)N)Cl)C1=CC=C(C=C1)Br | C12H10BrClN4O2
